US09278922B2
3,4-difluoro-N,N-bis(4-nitrobenzyl)aniline
3,4-Difluoroaniline and 4-nitrobenzyl bromide were processed using the method described in Example 32A to afford the title compound. LC/MS Rt 2.15 m/z 400 (M+H)+.

reactant | 3,4-Difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 3,4-difluoro-N,N-bis(4-nitrobenzyl)aniline | FC=1C=C(N(CC2=CC=C(C=C2)[N+](=O)[O-])CC2=CC=C(C=C2)[N+](=O)[O-])C=CC1F | C20H15F2N3O4
